US07468367B2
Description 10: [2-(5-Bromo-pyrimidin-2-ylamino)-ethyl]-methyl-carbamic acid dimethyl-ethyl ester
The title compound (2.40 g, 73%) was prepared from (2-amino-ethyl)-methyl-carbamic acid dimethyl-ethyl ester (1.74 g, 10 mmol), 2-chloro-5-bromo-pyrimidine (1.93 g, 10 mmol), N,N-diisopropylethylamine (3.87 g, 30 mmol) and K2CO3 (2.76 g, 20 mmol) according to the procedure described for Description 1.

reactant | (2-amino-ethyl)-methyl-carbamic acid dimethyl-ethyl ester | 10 mmol, 1.74 g | CC(C)(C)OC(N(C)CCN)=O | C8H18N2O2
reactant | 2-chloro-5-bromo-pyrimidine | 10 mmol, 1.93 g | ClC1=NC=C(C=N1)Br | C4H2BrClN2
reactant | N,N-diisopropylethylamine | 30 mmol, 3.87 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | K2CO3 | 20 mmol, 2.76 g | C(=O)([O-])[O-].[K+].[K+]
product | [2-(5-Bromo-pyrimidin-2-ylamino)-ethyl]-methyl-carbamic acid dimethyl-ethyl ester | 2.40 g, 73% | CC(C)(C)OC(N(C)CCNC1=NC=C(C=N1)Br)=O | C12H19BrN4O2
